US03933813
The plant for the continuous synthesis consisted of a cascade of three reaction vessels 120, 122 and 124 with cooling jacket 100, stirrer 101, nitrogen inlet 102 and the vessels had outlet tubes 105, 126 and 128. In vessel 120 there is located inlet tube 103 for the ethylene oxide as well as inlet tube 104 for the KSCN solution with branch line 130 through which the toluene is introduced. There is connected to vessel 124 a cooler 132, a separator 134, an extraction column 136 and a plate reactor 138. Reaction vessels 120, 122 and 124 for safety purposes, were held under a nitrogen pressure of 3 atmosphere absolute during the reaction. There were pumped into vessel 120 every hour through line 104 and line 140 a solution of 3.88 kilograms of potassium thiocyanate in 5.5 liters of water as well as 8.0 liters of toluene containing 20 grams of butyl mercaptan and through line 103 1.94 kilograms of ethylene oxide (also every hour). Vessel 120 was filled to such an extent with stirring and cooling to + 20°C. that the average residence time was about 1 hour. The reaction mixture then went through line 105 to vessel 122 and subsequently through line 126 to vessel 124 and then into cooler 132 and from there was pumped through line 106 into the phase separator 134. In vessels 122 and 12 the average residence time was also 1 hour, the temperature was held, for example, in vessel 122 to + 30°C. and in vessel 124 to + 40°C. In the cooler 132 the reaction mixture was cooled to + 15°C. and in phase separator 134 there was a continuous separation of the aqueous phase from the toluene phase. The toluene solution was pumped through line 107 into the extraction column 136 and washed by countercurrent flowing 5% aqueous sodium chloride which was introduced through line 108. Thereupon the contents of extraction column 136 was suitably maintained in motion by a pulsation pump 144 which favors the material exchange in the extraction. The sodium chloride solution flows out through line 109 and can, for example, be combined with the aqueous phase that flows off from separator 134 through line 110. Subsequently the toluene solution is pumped through line 111 into the reactor 138 (for example a plate reactor) having stirrer 113. At this place the toluene solution is mixed with the morpholine that is fed in through line 112 at a rate of 2.78 kilograms per hour. The reactor 138 is, for example, heated with steam at 0.3 atmospheres absolute to 100° to 110°C. The average residence time in reactor 138 is generally 2 hours. The hot reaction mixture is subsequently fed through the line 114 to the distillation unit. The yield corresponded to that of the discontinuous example, i.e., each hour there were produced about 4.35 kilograms of morpholinoethylmercaptan.

reactant | ethylene oxide | C1CO1 | C2H4O
reactant | KSCN | C(#N)[S-].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | potassium thiocyanate | 3.88 kilograms | [S-]C#N.[K+]
reactant | toluene | 8.0 liters, 20 grams | C1(=CC=CC=C1)C | C7H8
reactant | butyl mercaptan | C(CCC)S | C4H10S
solvent | water | 5.5 liters | O | H2O
product | morpholinoethylmercaptan | about 4.35 kilograms | O1CCN(CC1)CCS | C6H13NOS
